US07872036B2
1.3 g of [5-(5-amino-3-trifluoromethyl-1,2,4-triazolyl)-4-chloro-2-methylphenyl]2,2,2-trifluoroethyl sulfide was dissolved in 80 ml of ethyl acetate, and 0.9 g (purity 75%) of m-chloroperbenzoic acid was added under cooling with ice. The mixture was stirred under cooling with ice for 2 hours, washed with an aqueous sodium thiosulfate solution and then washed with an aqueous sodium hydrogencarbonate solution, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the obtained crystals were washed with carbon tetrachloride to obtain 1.2 g of [5-(5-amino-3-trifluoromethyl-1,2,4-triazolyl)-4-chloro-2-methylphenyl]2,2,2-trifluoroethyl sulfoxide as white crystals (melting point 235 to 237° C.).

reactant | [5-(5-amino-3-trifluoromethyl-1,2,4-triazolyl)-4-chloro-2-methylphenyl]2,2,2-trifluoroethyl sulfide | 1.3 g | NC1=NC(=NN1C=1C(=CC(=C(C1)C(C(F)(F)F)SC(C(F)(F)F)C1=C(C=C(C(=C1)N1N=C(N=C1N)C(F)(F)F)Cl)C)C)Cl)C(F)(F)F | C24H16Cl2F12N8S
reactant | m-chloroperbenzoic acid | 0.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | [5-(5-amino-3-trifluoromethyl-1,2,4-triazolyl)-4-chloro-2-methylphenyl]2,2,2-trifluoroethyl sulfoxide | 1.2 g | NC1=NC(=NN1C=1C(=CC(=C(C1)C(C(F)(F)F)S(=O)C(C(F)(F)F)C1=C(C=C(C(=C1)N1N=C(N=C1N)C(F)(F)F)Cl)C)C)Cl)C(F)(F)F | C24H16Cl2F12N8OS
